US06833378B2
2-(4-Bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester
A mixture of 4-chloro-6-methyl-2-(4-bromo-2,6-dimethyl-phenoxy)-nicotinic acid methyl ester and 1-ethyl-propyl-amine in DMSO was heated at 120° C. for 16 hr. The mixture was quenched with water, brine and extracted with ethyl acetate. The organic layer was dried and concentrated to dryness. The residue was purified through silica gel column chromatography using hexane to 3% ethyl acetate in hexane as eluent to give the title compound as a white solid. 1H NMR(CDCl3) d 8.1(d,1H), 7.18(s,2H), 6.08(s,1H), 3.87(s,3H), 3.35(m,1H), 2.10(s,3H), 2.08(s,6H), 1.4-1.7(m,4H), 0.96(t,6H) ppm.

reactant | 4-chloro-6-methyl-2-(4-bromo-2,6-dimethyl-phenoxy)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)Br)C)=O | C16H15BrClNO3
reactant | 1-ethyl-propyl-amine | C(C)C(CC)N | C5H13N
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(4-Bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CC)C)OC1=C(C=C(C=C1C)Br)C)=O | C21H27BrN2O3
